US05767293
To a solution of 6-(4,5-dihydroxy-2-hexenoyloxy)-5-methoxy-4-(2-methyl-3-(3-methyl-2-butenyl)oxiranyl]-1-oxaspiro[2,5]octane (412 mg) in a mixture of methanol (4 ml) and water (4 ml) was added sodium periodate (215 mg) in several portions at 5° C. The mixture was stirred for half hour at the same temperature and diluted with diethyl ether (30 ml). The mixture was washed with brine, dried, and concentrated in vacuo to give a crude oil, which was purified by column chromatography on silica gel (elution by diethyl etherln-hexane =1/1) to yield 6-(3-formylacryloyloxy)-5-methoxy-4-(2-methyl-3-(3-methyl-2-butenyl)oxiranyl]-1-oxaspiro[2,5]octane (251 mg) as an oil.

reactant | 6-(4,5-dihydroxy-2-hexenoyloxy)-5-methoxy-4-(2-methyl-3-(3-methyl-2-butenyl)oxiranyl]-1-oxaspiro[2,5]octane | 412 mg | OC(C=CC(=O)OC1C(C(C2(CO2)CC1)C1(OC1CC=C(C)C)C)OC)C(C)O | C22H34O7
reactant | sodium periodate | 215 mg | I(=O)(=O)(=O)[O-].[Na+]
solvent | methanol | 4 ml | CO | CH4O
solvent | water | 4 ml | O | H2O
solvent | diethyl ether | 30 ml | C(C)OCC | C4H10O
product | 6-(3-formylacryloyloxy)-5-methoxy-4-(2-methyl-3-(3-methyl-2-butenyl)oxiranyl]-1-oxaspiro[2,5]octane | 251 mg | C(=O)C=CC(=O)OC1C(C(C2(CO2)CC1)C1(OC1CC=C(C)C)C)OC | C20H28O6
